US07560462B2
Step 1. 3-(4-Methyl-2-nitro-phenyl)-pyridine
4-Bromo-2-nitro-phenol (648 mg, 3.0 mmol) and 3-pyridyl boronic acid (387 mg, 3.15 mmol) were diluted with 5 mL of dioxane and placed under N2. Potassium carbonate was diluted in 1 mL of H2O and added to the reaction mixture. Tetrakis(triphenylphosphine) palladium (173 mg, 0.15 mmol) was added, then the reaction was heated to 70° C. and stirred overnight. The reaction was allowed to cool to room temperature, then diluted with 30 mL of EtOAc and 30 mL of 10% Na2CO3. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The material was purified with a Biotage 40M cartridge eluting with hexanes/EtOAc, 1/1 to yield an off white solid.

reactant | 4-Bromo-2-nitro-phenol | 3.0 mmol, 648 mg | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | 3-pyridyl boronic acid | 3.15 mmol, 387 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine) palladium | 0.15 mmol, 173 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-Methyl-2-nitro-phenyl)-pyridine | CC1=CC(=C(C=C1)C=1C=NC=CC1)[N+](=O)[O-] | C12H10N2O2
